US07179801B2
To a solution of benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (5.82 g) in N,N-dimethylformamide (12 ml) was added sodium iodide (1.44 g). After stirring at room temperature for 1 hour, 4-(tert-butoxycarbonylaminomethyl)-5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazole (14.8 g) was added to the mixture. The stirring was continued at 35° C. for 24 hours. The resulting mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated in vacuo. The residue was dissolved in ethyl acetate (50 ml) and added to diisopropyl ether (500 ml) dropwise. The resulting precipitate was collected by filtration. The filter cake was washed with diisopropyl ether and dried over phosphorous pentoxide in vacuo. The solid (15.6 g) was dissolved in dichloromethane (47 ml), and to the solution were added anisole (16 ml) and trifluoroacetic acid (32 ml) successively. After stirring at room temperature for 3 hours, the reaction mixture was poured into diisopropyl ether (500 ml). The precipitate was collected by filtration, washed with diisopropyl ether and dried over phosphorous pentoxide in vacuo. The crude product was dissolved in a phosphate buffer (pH 7.0) and purified by preparative HPLC (eluent: pH 7.0 phosphate buffer and acetonitrile). The eluate was subjected to column chromatography on Diaion® HP-20 (Mitsubishi Chemical Corporation) and freeze-dried to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-aminomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (940 mg).

reactant | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 5.82 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35ClN6O7S2
reactant | sodium iodide | 1.44 g | [I-].[Na+]
reactant | 4-(tert-butoxycarbonylaminomethyl)-5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazole | 14.8 g | C(C)(C)(C)OC(=O)NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H48N4O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-aminomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 940 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)CN)N)CCO)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C22H28N10O8S2
